US08258152B2
1-(2-Fluoro-4-iodo-benzyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ((R)-2,2-dimethyl-[1,3]-dioxolan-4-ylmethoxy)-amide
EDCI (259 mg, 1.08 mmol) and HOBt (204 mg, 1.51 mmol) were added to a suspension of sodium 1-(2-fluoro-4-iodo-benzyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate (494 mg, 1.08 mmol) in THF (7 ml). The suspension was warmed gently for 1 minute before the addition of a solution of O—((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine (222 mg, 1.51 mmol) in THF (3 ml) followed by DIPEA (0.19 ml, 1.10 mmol). The reaction mixture was stirred at room temperature for 18 hours, poured into ethyl acetate (60 ml) and washed sequentially with 0.1M HCl (10 ml), saturated NaHCO3 solution (10 ml) and brine (10 ml). The organic layer was isolated and dried over magnesium sulphate, then concentrated in vacuo to provide a residue. Trituration of the residue in dichloromethane afforded the title compound as a pale cream solid (0.433 g, 76%). LCMS (method B): RT=2.32 min, (M+H)+=524, M+H+=526.

reactant | EDCI | 1.08 mmol, 259 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.51 mmol, 204 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | sodium 1-(2-fluoro-4-iodo-benzyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 1.08 mmol, 494 mg | FC1=C(CN2C(=CC=3C2=CN=CC3)C(=O)[O-])C=CC(=C1)I.[Na+]
reactant | O—((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine | 1.51 mmol, 222 mg | CC1(OC[C@@H](O1)CON)C | C6H13NO3
reactant | DIPEA | 1.10 mmol, 0.19 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-Fluoro-4-iodo-benzyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ((R)-2,2-dimethyl-[1,3]-dioxolan-4-ylmethoxy)-amide | 0.433 g, 76% | CC1(OC[C@@H](O1)CONC(=O)C1=CC=2C(=CN=CC2)N1CC1=C(C=C(C=C1)I)F)C | C21H21FIN3O4
